US09085555B2
A. {3-Chloro-2-fluoro-5-[(2-methoxy-ethyl)-methyl-amino]-benzyl}-carbamic acid tert-butyl ester
A suspension of (5-bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester (250 mg, 0.7 mmol), N-methoxyethyl-methylamine (99 mg, 1.1 mmol), sodium tert-butoxide (142 mg, 1.5 mmol) and di-μ-bromobis(tri-tert-butylphosphino)dipalladium (I) [CAS 185812-86-6] (29 mg, 0.04 mmol) in toluene (5 mL) was sealed in a microwave vial and heated for 30 min at 140° C. (Emrys Optimizer; personal chemistry). The reaction mixture was quenched by addition of saturated aqueous NaHCO3, extracted with EtOAc, dried (Na2SO4) and evaporated in vacuo. The crude product was purified by RP-preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) to give the title compound after lyophilization. MS (LC/MS): 347.0 [M]+. tR (HPLC conditions c): 5.23 min.

reactant | (5-bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester | 0.7 mmol, 250 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)Br)Cl)F)=O | C12H14BrClFNO2
reactant | N-methoxyethyl-methylamine | 1.1 mmol, 99 mg | COCCNC | C4H11NO
reactant | sodium tert-butoxide | 1.5 mmol, 142 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | {3-Chloro-2-fluoro-5-[(2-methoxy-ethyl)-methyl-amino]-benzyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)N(C)CCOC)Cl)F)=O | C16H24ClFN2O3
